US03998958
1 -(1 -Methyl-2 -pyrrolidylidene)-3 -p-chlorophenylurea
After dissolving 14.2 g. (0.1445 mole) of 2 -imino-1 -methylpyrrolidine in anhydrous benezene, 22.2 g. (0.1445 mole) of p- chlorophenylisocyanate dissolved in anhydrous benzene is added slowly with stirring and ice-bath cooling to the above solution. Solid material forms after 10 to 15 mins. The reaction mixture is stirred at room temperature overnight. The solid is collected (m.p. = 138-141° C.) and titurated with hot CH2Cl2. The material which does not dissolve is filtered off. Removal of the methylene chloride and recrystallizations from methanol of the subsequent solid product, 1 -(1 -methyl-2 -pyrrolidylidene)-3 -p-chlorophenylurea, yields the pure material, m.p. = 142-144° C.

reactant | 2 -imino-1 -methylpyrrolidine | 0.1445 mole | N=C1N(CCC1)C | C5H10N2
reactant | p- chlorophenylisocyanate | 0.1445 mole | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1 -(1 -Methyl-2 -pyrrolidylidene)-3 -p-chlorophenylurea | CN1C(CCC1)=NC(=O)NC1=CC=C(C=C1)Cl | C12H14ClN3O
